US08609647B2
(1) Piperidine-1,3-dicarboxylic acid 3-allyl ester 1-tert-butyl ester
To a solution of 1-(tert-butoxycarbonyl)-3-piperidinecarboxylic acid (50.0 g) in N,N-dimethylformamide (500 ml) were added potassium carbonate (60.3 g) and allyl bromide (28.3 ml), and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added water (600 ml), and the mixture was extracted with ethyl acetate (600 ml). The organic layer was sequentially washed with water (600 ml) and saturated aqueous sodium chloride solution (400 ml). The separated aqueous layer was extracted with ethyl acetate (300 ml) again. The combined organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. To a solution of the resulting residue in n-hexane/ethyl acetate (4/1, 400 ml) was added silica gel (70 g), and the mixture was stirred at room temperature. The mixture was filtered, and the filtrate was concentrated under reduced pressure to give the titled compound (62.5 g).

reactant | 1-(tert-butoxycarbonyl)-3-piperidinecarboxylic acid | 50.0 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | potassium carbonate | 60.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 28.3 ml | C(C=C)Br | C3H5Br
reactant | water | 600 ml | O | H2O
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | Piperidine-1,3-dicarboxylic acid 3-allyl ester 1-tert-butyl ester | 62.5 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)OCC=C | C14H23NO4
